US08440662B2
Step 1: 2-Chloro-7-(5-methyl-furan-2-yl)-4-morpholin-4-yl-quinazoline
To a 50 mL round bottom flask, 7-bromo-2-chloro-4-morpholin-4-yl-quinazoline (2 g, 0.0061 mol), 5-methyl-2-furanboronic acid pinacol ester (1.1 g, 0.0091 mol), sodium carbonate (0.969 g, 0.0092 mol), DMF (80 mL) and water (20 mL) were added and degassed the reaction vessel with nitrogen for 5-10 min. To the same reaction mixture, Pd(PPh3)2Cl2 (0.213 g, 0.0003 mol) was added and again degassed with nitrogen for 5-10 min. The reaction mixture was stirred at 95° C. for 2 h. The reaction mixture was cooled and diluted with ethyl acetate. The organic layer was washed with water, brine and dried over sodium sulfate. The solvent was removed under reduced pressure to afford the crude product. The crude product was purified; using column chromatography (60-120 silica gel, 0-20% ethyl acetate in hexane) to yield the desired product [1.4 g, 70%]. 1H NMR: (400 MHz, CDCl3): δ 8.01 (d, J=1.6 Hz, 1H), 7.80 (d, J=8.8 Hz, 1H), 7.68 (dd, J′=8.8 Hz, J″=1.6 Hz, 1H), 6.78 (d, J=3.2, 1H), 6.14-6.45 (m, 1H), 3.88 (m, 8H), 2.42 (s, 3H); LC-MS (ESI): Calculated mass: 329.1; Observed mass: 330.0 [M+H]+ (RT: 1.71 min).

reactant | 7-bromo-2-chloro-4-morpholin-4-yl-quinazoline | 0.0061 mol, 2 g | BrC1=CC=C2C(=NC(=NC2=C1)Cl)N1CCOCC1 | C12H11BrClN3O
reactant | 5-methyl-2-furanboronic acid pinacol ester | 0.0091 mol, 1.1 g | CC1=CC=C(O1)B1OC(C)(C)C(C)(C)O1 | C11H17BO3
reactant | sodium carbonate | 0.0092 mol, 0.969 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | DMF | 80 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)2Cl2 | 0.0003 mol, 0.213 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 20 mL | O | H2O
product | 2-Chloro-7-(5-methyl-furan-2-yl)-4-morpholin-4-yl-quinazoline | 1.4 g, 70% | ClC1=NC2=CC(=CC=C2C(=N1)N1CCOCC1)C=1OC(=CC1)C | C17H16ClN3O2
